US05081118
To a well-stirred solution consisting of 34.40 g. (0.20 mole) of 2-iodoethanol dissolved in 25 ml. of benzene precooled to 0° C. with the aid of an ice/water bath, there is added in a dropwise manner a solution consisting of 19.1 ml. (0.20 mole) of ethyl chloroformate dissolved in 25 ml. of benzene. Upon completion of this step, the reaction mixture is treated with 19.1 ml. (0.20 mole) of pyridine which is also added in a dropwise manner. The resulting suspension is then stirred for a period of one hour at 0° C. (while under a nitrogen atmosphere) and for six hours at room temperature (~20° C.). At the end of this time, the pyridine hydriodide is removed by filtration and the organic filtrate is washed twice with 50 ml. of 3N hydrochloric acid and once with 50 ml. of brine, followed by drying over anhydrous magnesium sulfate. After removal of the drying agent by means of filtration and the solvent by means of evaporation under reduced pressure, there is obtained 2-iodoethyl ethyl carbonate as the residual material.

reactant | 2-iodoethanol | 0.20 mole | ICCO | C2H5IO
reactant | ethyl chloroformate | 0.20 mole | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 0.20 mole | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-iodoethyl ethyl carbonate | C(OCCI)(OCC)=O | C5H9IO3
